US05356921
After addition of prostacyclin, human thrombocytes were isolated from platelet-rich plasma and suspended in Tyrode-Hepes buffer of pH 7.4 at 2×108 cells/ml. One ml aliquots of cells were incubated either with a compound according to the invention (0.1 to 100 μM) or a solvent (ethanol and/or dimethyl sulfoxide) at 37° C. for 3 minutes and thereafter with radioactively labelled arachidonic acid (3.5 μM) for 5 minutes. The reaction was stopped and the metabolites of arachidonic acid were extracted by adding methanol, chloroform and formic acid. After evaporation of the chloroform-containing layer to dryness under nitrogen, the residue obtained was resuspended in 50 μl chloroform and analyzed by thin layer chromatography. The distribution of the radioactivity of the different metabolites of arachidonic acid was measured using a TLC linear analyzer. By correlating the percentages of the amount of TXB2 formed under the action of thromboxane synthase in the presence of solvent and in the presence of different concentrations of compounds according to the invention, the following IC50 -values were determined graphically from semilogarithmic diagrams.

reactant | prostacyclin | CCCCC[C@@H](/C=C/[C@H]1[C@@H](C[C@H]2[C@@H]1C/C(=C/CCCC(=O)O)/O2)O)O | C20H32O5
reactant | ethanol | C(C)O | C2H6O
reactant | arachidonic acid | 3.5 μM | C(CCC\C=C/C\C=C/C\C=C/C\C=C/CCCCC)(=O)O | C20H32O2
reactant | TXB2 | CCCCC[C@@H](/C=C/[C@@H]1[C@H]([C@H](CC(O1)O)O)C/C=C\CCCC(=O)O)O | C20H34O6
solvent | chloroform | 50 μl | C(Cl)(Cl)Cl | CHCl3
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
product | thromboxane | CCCCCCC[C@H]1CCCO[C@@H]1CCCCCCCC | C20H40O
